US07612114B2
(S)-6-{2-{2-Hydroxyethyl[4-(1-methylpiperidin-4-yl)benzyl]amino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from pivalic acid (S)-6-[2-(ethoxycarbonylmethylamino)-4-methoxyphenyl]-5,6,7,8-tetrahydronaphthalen-2-yl ester (35 mg) and 4-(4-carboxyphenyl)piperidine-1-carboxylic acid tert-butyl ester (73 mg) according to an analogous synthesis method to the above-mentioned Preparation Example 86 and Example 337,the title compound (41 mg) was obtained.

reactant | pivalic acid (S)-6-[2-(ethoxycarbonylmethylamino)-4-methoxyphenyl]-5,6,7,8-tetrahydronaphthalen-2-yl ester | 35 mg | C(C)OC(=O)CNC1=C(C=CC(=C1)OC)[C@@H]1CC=2C=CC(=CC2CC1)OC(C(C)(C)C)=O | C26H33NO5
reactant | 4-(4-carboxyphenyl)piperidine-1-carboxylic acid tert-butyl ester | 73 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC=C(C=C1)C(=O)O | C17H23NO4
product | (S)-6-{2-{2-Hydroxyethyl[4-(1-methylpiperidin-4-yl)benzyl]amino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 41 mg | OCCN(C1=C(C=CC(=C1)OC)[C@@H]1CC=2C=CC(=CC2CC1)O)CC1=CC=C(C=C1)C1CCN(CC1)C | C32H40N2O3
